US08193378B2
7-Hydroxy-2H-chromene-3-carbaldehyde (200 mg) was dissolved in DMF (5 mL), and K2CO3 (235 mg) and 1-(bromomethyl)-2,4-bis(trifluoromethyl)benzene (0.234 mL) were added thereto, followed by stirring at 80° C. for 30 minutes. The reaction liquid was poured into water, and the resulting powder was collected by filtration and dried under reduced pressure to obtain 7-{[2,4-bis(trifluoromethyl)benzyl]oxy}-2H-chromene-3-carbaldehyde (455 mg) as a pale yellow powder.

reactant | 7-Hydroxy-2H-chromene-3-carbaldehyde | 200 mg | OC1=CC=C2C=C(COC2=C1)C=O | C10H8O3
reactant | K2CO3 | 235 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-(bromomethyl)-2,4-bis(trifluoromethyl)benzene | 0.234 mL | BrCC1=C(C=C(C=C1)C(F)(F)F)C(F)(F)F | C9H5BrF6
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 7-{[2,4-bis(trifluoromethyl)benzyl]oxy}-2H-chromene-3-carbaldehyde | 455 mg | FC(C1=C(COC2=CC=C3C=C(COC3=C2)C=O)C=CC(=C1)C(F)(F)F)(F)F | C19H12F6O3
